US06555577B1
3-Acetylphenylboronic acid (7.10 g, 43.3 mmol) was coupled with (E)-3-(4-bromophenyl)-but-2-en-1-ol (5.76 g, 25.0 mmol) by a procedure analogous to that described in example 54a to give (E)-3-(3′-acetyl-biphenyl-4-yl)-but-2-en-1-ol as an off-white solid; 5.33 g (79%). This solid was recrystallised from aqueous ethanol to give a first crop of very pure (E)-3-(3′-acetyl-biphenyl-4-yl)-but-2-en-1-ol as colourless platelets; 2.78 g (41%) and a second crop of (E)-3-(3′-acetyl-biphenyl-4-yl)-but-2-en-1-ol as an amorphous off-white solid; 2.53 g (37%).

reactant | 3-Acetylphenylboronic acid | 43.3 mmol, 7.10 g | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
reactant | (E)-3-(4-bromophenyl)-but-2-en-1-ol | 25.0 mmol, 5.76 g | BrC1=CC=C(C=C1)/C(=C/CO)/C | C10H11BrO
product | (E)-3-(3′-acetyl-biphenyl-4-yl)-but-2-en-1-ol | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)/C(=C/CO)/C | C18H18O2
